US04707488
C: 3-(3,5-Difluoro-4-methoxyphenyl)propanoic acid
A solution of 3-(3,5-difluoro-4-methoxyphenyl)propenoic acid (0.078 mol) in tetrahydrofuran (100 ml) and a slurry of 10% palladium on carbon (2 g) in ethyl acetate were reacted substantially as described in Example 7C above to obtain 16.7 g (99%), white crystals: mp 72°-73°.

reactant | 3-(3,5-difluoro-4-methoxyphenyl)propenoic acid | 0.078 mol | FC=1C=C(C=C(C1OC)F)C=CC(=O)O | C10H8F2O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-Difluoro-4-methoxyphenyl)propanoic acid | FC=1C=C(C=C(C1OC)F)CCC(=O)O | C10H10F2O3
